US05356918
(4S,5R)-N-(2-Nitrooxyethyl)-4-methyl-2-oxooxazolidine-5-carboxamide (Compound No. 2-38)
Following a procedure similar to that described in Example 1, but using 312 mg of (4S,5R)-2-oxo-4-methyloxazolidine-5-carboxylic acid, 372 mg of N-(2-nitrooxyethyl)amine nitrate and 0.47 ml of diphenylphosphoryl azide, 83 mg of the title compound were obtained as a colorless oil.

reactant | (4S,5R)-2-oxo-4-methyloxazolidine-5-carboxylic acid | 312 mg | O=C1O[C@H]([C@@H](N1)C)C(=O)O | C5H7NO4
reactant | N-(2-nitrooxyethyl)amine nitrate | 372 mg | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | diphenylphosphoryl azide | 0.47 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | (4S,5R)-N-(2-Nitrooxyethyl)-4-methyl-2-oxooxazolidine-5-carboxamide | 83 mg | [N+](=O)([O-])OCCNC(=O)[C@H]1[C@@H](NC(O1)=O)C | C7H11N3O6
